US04999355
Para-toluenesulphonic acid (50 mg) is added to an agitated solution of 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-3-hydroxy-1-isoindolinone (5 g) and aniline (1.7 g) in xylene (100 cc) at a temperature close to 20° C. in a Dean Stark apparatus. Agitation is continued for 9 hours at a temperature close to 135° C. After cooling to a temperature close to 20° C., the solution is washed with aqueous sodium bicarbonate solution (2×50 cc) then with distilled water (2×30 cc). The organic extracts are combined, dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 80° C. The residue obtained is dissolved in methylene chloride (10 cc) and poured onto silica (100 g) contained in a column of 2 cm diameter. Elution is carried out with a mixture of methylene chloride and methanol (95-5 by volume) (1300 cc) and the corresponding eluate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa). The precipitate formed is recrystallized from boiling acetonitrile (30 cc). 5.7 g of 3-phenylamino-2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1-isoindolinone are obtained, melting at 119° C.

reactant | 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-3-hydroxy-1-isoindolinone | 5 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1C(C2=CC=CC=C2C1O)=O | C22H24N2O2
reactant | aniline | 1.7 g | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 100 cc | C=1(C(=CC=CC1)C)C | C8H10
solvent | methylene chloride | 10 cc | C(Cl)Cl | CH2Cl2
catalyst | Para-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-phenylamino-2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1-isoindolinone | 5.7 g | C1(=CC=CC=C1)NC1N(C(C2=CC=CC=C12)=O)CCCN1CCC(=CC1)C1=CC=CC=C1 | C28H29N3O
